US05059614
Preparation of 3-(2,6-dimethyl phenyl carbamoyl) 5-ethyl isoxazole (compound 2)
5.1 g (0.04 mole) of 5-ethyl isoxazole 3-carboxylic acid are dissolved in 100 ml of DMF under nitrogen, 13 g (0.08 mole) of carbonyl diimidazole are added and the mixture is stirred for 2 h at room temperature. 9.7 g (0.08 mole) of 2,6-dimethyl aniline are added and the mixture is stirred again for 48 h. After removal of the precipitate formed by filtration and evaporation of the solvent, the residue is crystallized from petroleum ether. M.p.=82°. The yield is 73%.

reactant | 5-ethyl isoxazole 3-carboxylic acid | 0.04 mole, 5.1 g | C(C)C1=CC(=NO1)C(=O)O | C6H7NO3
reactant | carbonyl diimidazole | 0.08 mole, 13 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2,6-dimethyl aniline | 0.08 mole, 9.7 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(2,6-dimethyl phenyl carbamoyl) 5-ethyl isoxazole | yield is 73% | CC1=C(C(=CC=C1)C)NC(=O)C1=NOC(=C1)CC | C14H16N2O2
